* D:\super_UART\sim\STM32_boot_button.asc
V1 VCC 0 3V3
XX1 N001 RST RST_ACT 0 comparator params: Vhigh=3.3
V2 N001 N003 0.07
R1 VCC N003 700k
R2 N003 0 300k
XX2 RST N008 RST_NACT 0 comparator params: Vhigh=3.3
V3 N008 N010 0.398
R3 VCC N010 555k
R4 N010 0 445k
C1 RST 0 10n
C2 BOOT0 0 1µ
R5 BOOT0 0 10k
Q1 BOOT0 N005 VCC 0 BC557B
D1 RST N006 RB521SM-30
R6 VCC RST 55k
R7 VCC N005 10k
R8 N005 N006 10k
M1 N006 N007 0 0 2N7002
V4 N007 0 PULSE(0 12 100m 1u 1u 100m 100)
XX3 N002 BOOT0 BOOT0_ACT 0 comparator params: Vhigh=3.3
V5 N002 N004 -0.3
R9 VCC N004 700k
R10 N004 0 300k
XX4 BOOT0 N009 BOOT0_NACT 0 comparator params: Vhigh=3.3
V6 N009 N011 0.95
R11 VCC N011 800k
R12 N011 0 200k

* block symbol definitions
.subckt comparator IN+ IN- OUT+ OUT-
B1 OUT+ OUT- V=if(V(IN+)>V(IN-),Vhigh,Vlow)
.param Vhigh=1 Vlow=0
.ends comparator

.model D D
.lib C:\Users\Masta\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Masta\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Masta\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
